US04507498
A mixture of 4.13 g of (4-acetyl-3-hydroxy-2-propylphenoxy)acetic acid ethyl ester, 7.6 ml of 1,3-dibromopropane and 3.0 g of anhydrous potassium carbonate in 100 ml of anhydrous acetone was stirred at reflux for 73 hours. An additional 1.0 g of potassium carbonate was added and reflux was continued for 19 hours at which time 1.0 g of potassium carbonate was added. After 16 hours reflux, the reaction mixture was filtered and the filtrate was concentrated in vacuo. The crude product was chromatographed on 200 g of silica gel and eluted with 15% ethyl acetate-toluene to give 4.82 g of [4-acetyl-3-(3-bromopropoxy)-2-propylphenoxy]acetic acid ethyl ester.

reactant | (4-acetyl-3-hydroxy-2-propylphenoxy)acetic acid ethyl ester | 4.13 g | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C15H20O5
reactant | 1,3-dibromopropane | 7.6 ml | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | [4-acetyl-3-(3-bromopropoxy)-2-propylphenoxy]acetic acid ethyl ester | 4.82 g | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCCBr)CCC)=O | C18H25BrO5
